US05547950
(S)-N-[[3-[3,5-difluoro-4-[4-[2-(1-piperidinyl)ethyl]-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide
The [[3-[3,5-difluoro-4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]-p-toluenesulfonate (29.661 g, 52 mmol) was dissolved in dry DMF (125 mL) and then treated with solid NaN3 (10.19 g, 156 mmol) at room temperature. The reaction was heated to 60° C. for three hours and then allowed to cool to room temperature overnight under N2. The reaction was found to be complete by TLC (30% EtOAc/hexane, run twice, UV short wave). The reaction mixture was concentrated in vacuo to give a cream colored solid. The crude product was dissolved in 600 mL EtOAc and then washed with both H2O (2×500 mL) and brine (500 mL). The aqueous portions were back-extracted with more EtOAc (2×400 mL). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo to yield 22.41 g (91%) of the title compound as a pale yellow solid with mp 115°-117° C.

reactant | [[3-[3,5-difluoro-4-[4-(tert-butoxycarbonyl)-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]-p-toluenesulfonate | 52 mmol, 29.661 g | FC=1C=C(C=C(C1N1CCN(CC1)C(=O)OC(C)(C)C)F)N1C(OC(C1)COS(=O)(=O)C1=CC=C(C=C1)C)=O | C26H31F2N3O7S
reactant | NaN3 | 156 mmol, 10.19 g | [N-]=[N+]=[N-].[Na+]
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
reactant | DMF | 125 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 600 mL | CCOC(=O)C | C4H8O2
product | (S)-N-[[3-[3,5-difluoro-4-[4-[2-(1-piperidinyl)ethyl]-1-piperazinyl]phenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 22.41 g, 91% | FC=1C=C(C=C(C1N1CCN(CC1)CCN1CCCCC1)F)N1C(O[C@H](C1)CNC(C)=O)=O | C23H33F2N5O3
